US09284331B2
Step 2: 2-(4-(methoxymethyl)-1H-imidazol-1-yl)-9-(thiazol-4-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 101. To a stirred solution of 9-(thiazol-4-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (160 mg, 0.51 mmol) in 1,2-dichloroethane (4 mL) POCl3 (0.096 mL, 1.03 mmol) was added and the resulting suspension was stirred at 100° C. for 1 h. The reaction mixture was cooled to rt and concentrated under reduced pressure to dryness. For complete removal of POCl3 the residue was taken up in toluene and evaporated twice again and dried under high vacuo. The resulting crude chloro compound was dissolved in 1,2-dichloroethane (4 mL), 4-(methoxymethyl)-1H-imidazole (172 mg, 1.53 mmol) was added and the mixture was stirred at 100° C. for 2 h. The reaction mixture was allowed to warm to rt and diluted with DCM. Saturated aqueous NaHCO3 solution was added and the mixture was extracted twice with DCM. The combined organic layers were dried with sodium sulfate, filtered and the solvent was removed under reduced pressure. The crude product was purified by SFC (column: Reprosil 70 NH2, 5 μm, 250×30 mm, Dr. Maisch; eluent: 14% MeOH/CO2 for 1 min, then from 14% MeOH/CO2 to 19% MeOH/CO2 in 6 min; flow 100 mL/min; UV detection at 220 nm) to yield the title compound as white powder (27 mg). UPLC-MS: MS 406.2 (M+H+); UPLC rt 0.78 min. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 3.14 (t, J=5.9 Hz, 2 H), 3.42 (s, 3 H), 3.85 (t, J=6.1 Hz, 2 H), 4.39 (br. s., 2 H), 4.44 (s, 2 H), 6.61 (s, 1 H), 7.37-7.50 (m, 3 H), 7.68 (d, J=7.8 Hz, 1 H), 7.72 (d, J=7.8 Hz, 1 H), 8.04 (s, 1 H), 8.95 (s, 1 H).

reactant | 9-(thiazol-4-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 0.51 mmol, 160 mg | S1C=NC(=C1)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C16H13N3O2S
reactant | 1,2-dichloroethane | 1.03 mmol, 4 mL | ClCCCl | C2H4Cl2
reactant | 4-(methoxymethyl)-1H-imidazole | 1.53 mmol, 172 mg | COCC=1N=CNC1 | C5H8N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-(methoxymethyl)-1H-imidazol-1-yl)-9-(thiazol-4-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 27 mg | COCC=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C=2N=CSC2)=C1)=O | C21H19N5O2S
